US06239131B1
Preparation of N-(2-aminophenyl)-N-(2-cyanoethyl)-2-fluoroaniline
N-(2-Nitrophenyl)-N-(2-cyanoethyl)-2-fluoroaniline (6.37 g) was dissolved in methanol (60 ml), 10% palladium carbon (0.60 g) was added, the mixture was stirred for 3 hours under hydrogen atmosphere. Palladium carbon was removed by filtration, the filtrate was concentrated under reduced pressure, to thereby obtain 6.17 g of the titled compound (Yield: 100%).

reactant | N-(2-Nitrophenyl)-N-(2-cyanoethyl)-2-fluoroaniline | 6.37 g | [N+](=O)([O-])C1=C(C=CC=C1)N(C1=C(C=CC=C1)F)CCC#N | C15H12FN3O2
solvent | methanol | 60 ml | CO | CH4O
catalyst | palladium carbon | 0.60 g | [C].[Pd]
product | N-(2-aminophenyl)-N-(2-cyanoethyl)-2-fluoroaniline | 6.17 g, Yield: 100% | NC1=C(C=CC=C1)N(C1=C(C=CC=C1)F)CCC#N | C15H14FN3
